US07994209B2
(S)-3-[(S)-Cyclopropyl(naphthalen-1-yloxy)methyl]pyrrolidine
(S)-3-((S)-Cyclopropylhydroxymethyl)pyrrolidine-1-carboxylic acid t-butyl ester (35 mg, 140 μmmol), copper(I) iodide (8.3 mg, 43.5 μmmol), o-phenanthroline (15.7 mg, 87 μmmol), and 1-iodonaphthalene (73.7 mg, 290 μmmol) were combined. Toluene (463 μL, 4.4 mmol) was added, followed by the addition of cesium carbonate (94.5 mg, 290 μmmol). Air was bubbled through the mixture, the vessel was sealed, and the mixture was heated at 105° C. for 72 hours. The mixture was filtered, rinsed with DCM, and concentrated. The crude material was treated with 1.25M HCl in EtOH (1.2 mL, 1.5 mmol) and stirred overnight. The mixture was concentrated, redissolved in 1:1 AcOH:H2O and purified by preparative HPLC to yield the title compound as a mono-TFA salt (3.5 mg, 99% purity). MS m/z: [M+H]+ calcd for C18H21NO, 268.16; found 268.2.

reactant | (S)-3-((S)-Cyclopropylhydroxymethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 35 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@@H](O)C1CC1 | C13H23NO3
reactant | o-phenanthroline | 15.7 mg | C1=CC2=C(C3=C(C=CC=N3)C=C2)N=C1 | C12H8N2
reactant | 1-iodonaphthalene | 73.7 mg | IC1=CC=CC2=CC=CC=C12 | C10H7I
reactant | Toluene | 4.4 mmol, 463 μL | C1(=CC=CC=C1)C | C7H8
reactant | cesium carbonate | 94.5 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 1.25M | Cl | ClH
reactant | EtOH | 1.5 mmol, 1.2 mL | CCO | C2H6O
catalyst | copper(I) iodide | 8.3 mg | [Cu]I
product | (S)-3-[(S)-Cyclopropyl(naphthalen-1-yloxy)methyl]pyrrolidine | C1(CC1)[C@@H]([C@@H]1CNCC1)OC1=CC=CC2=CC=CC=C12 | C18H21NO
